US08809529B2
2-((3-benzyl-5-(4-hydroxyphenyl)pyrazin-2-yl)amino)pentanoic acid.
4-(5-amino-6-benzylpyrazin-2-yl)phenol (100 mg, 0.36 mmol) was mixed with 2-Oxovaleric acid (84 mg, 0.72 mmol) in ethanol (20 mL). Pd/C (10% Palladium in active carbon, 40 mg) was added, and the reaction mixture heated to 65° C. Air was bubbled out by N2 gas, and a hydrogen balloon applied to the reaction flask. The reaction was continuously stirred for 4 hrs. After cooling down, it was filtered, and the resulting solution purified by flash chromatography (eluting solvent: 50% EtOAc in heptanes) to give the product as a yellow powder (70 mg, 52%). 1H NMR (300 MHz, CD2Cl2, δ): 8.31 (s, 1H), 7.82 (d, 2H, J=9.0 Hz), 7.31 (m, 5H), 6.92 (d, 2H, J=9.0 Hz), 5.34 (s, 2H), 4.20 (m, 1H), 1.10 (m, 2H), 0.98 (m, 2H), 0.87 (t, 3H); MS (ESI) m/z 378.3 (M+1).

reactant | 4-(5-amino-6-benzylpyrazin-2-yl)phenol | 0.36 mmol, 100 mg | NC=1N=CC(=NC1CC1=CC=CC=C1)C1=CC=C(C=C1)O | C17H15N3O
reactant | 2-Oxovaleric acid | 0.72 mmol, 84 mg | O=C(C(=O)O)CCC | C5H8O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | 2-((3-benzyl-5-(4-hydroxyphenyl)pyrazin-2-yl)amino)pentanoic acid | 70 mg, 52% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NC(C(=O)O)CCC | C22H23N3O3
